US09388144B2
To a solution of (14S,18S)-tri-tert-butyl 1-(1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (250 mg, 0.266 mmol) and 3-azidopropan-1-amine (200 mg, 2.0 mmol) in THF (5.0 mL) and water (1.0 mL) was added copper powder (17 mg) and 1 N CuSO4 (0.05 mL). The mixture was stirred at room temperature for 6 hrs under nitrogen, diluted with DCM, washed with aqueous saturated solution of EDTA. The solvent was evaporated under reduce pressure to afford a residue, which was purified by Biotage SP4 to afford (14S,18S)-tri-tert-butyl 2-(4-((1-(3-aminopropyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-1-(1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (158 mg, 57%) as a yellow oil. MS (ESI), 520.4 (M/2+H)+.

reactant | (14S,18S)-tri-tert-butyl 1-(1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 0.266 mmol, 250 mg | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)OCC#C)=O | C50H78N6O11
reactant | 3-azidopropan-1-amine | 2.0 mmol, 200 mg | N(=[N+]=[N-])CCCN | C3H8N4
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper | 17 mg | [Cu] | Cu
catalyst | CuSO4 | 1 N, 0.05 mL | [O-]S(=O)(=O)[O-].[Cu+2]
product | (14S,18S)-tri-tert-butyl 2-(4-((1-(3-aminopropyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-1-(1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 158 mg, 57% | NCCCN1N=NC(=C1)COC1=CC=C(CN(CC=2N(C=CN2)CC(=O)OC(C)(C)C)CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)C=C1 | C53H86N10O11
